US06153775
(ii) Synthesis of 1,4,7-tris(aminoethyl)-1,4,7-triazacyclononane
1,4,7-tris(cyanomethyl)-1,4,7-triazacyclononane (0.320 g, 1.23 mmol) and BH3.THF 1 M solution in THF (40 cm3) were refluxed under nitrogen for 48 h. After cooling, excess borane was destroyed by adding water (5 cm3), then the solution was dried under vacuum. The white solid obtained was dissolved in 50 cm3 of HCl 7M and heated under reflux for 40 h. After cooling, the solution was dried in vacuum to yield a white solid. The solid was dissolved in the minimum amount of water and the solution obtained was passed through a Dowex 1×8-200 column (10 g) activated with a solution 1M of sodium hydroxide. The solvent was removed under reduced pressure to yield a colourless oil. (0.270 g, 1.045 mmol) Yield: 85%.

reactant | 1,4,7-tris(cyanomethyl)-1,4,7-triazacyclononane | 1.23 mmol, 0.320 g | C(#N)CN1CCN(CCN(CC1)CC#N)CC#N | C12H18N6
reactant | BH3.THF | 1 M | B.C1CCOC1
reactant | sodium hydroxide | 1M | [OH-].[Na+]
solvent | THF | 40 cm3 | C1CCOC1 | C4H8O
solvent | HCl | 7M, 50 cm3 | Cl | ClH
solvent | water | O | H2O
product | 1,4,7-tris(aminoethyl)-1,4,7-triazacyclononane | Yield: 85% | NCCN1CCN(CCN(CC1)CCN)CCN | C12H30N6
